US08293911B2
Step B: N-[2-Chloro-6-methyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethylbutanamide
Bis(dibenzylidineacetone)palladium (2 mg, 0.0035 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (3.3 mg, 0.0084 mmol) were added to dry toluene (10 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (197 mg, 1.75 mmol), 6-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride salt (154 mg, 0.65 mmol) and N-(4-bromo-2-chloro-6-methyphenyl)-3,3-dimethylbutanamide (200 mg, 0.63 mmol) were then added and the reaction mixture was stirred at 90° C. overnight. The reaction mixture was then cooled to room temperature, concentrated and purified by thin layer chromatography (dichloromethane:methanol 5%) to afford the title compound as a solid.

reactant | Potassium tert-butoxide | 1.75 mmol, 197 mg | CC(C)([O-])C.[K+]
reactant | 6-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride salt | 0.65 mmol, 154 mg | Cl.FC(C=1C=C2CCNCC2=CC1)(F)F
reactant | N-(4-bromo-2-chloro-6-methyphenyl)-3,3-dimethylbutanamide | 0.63 mmol, 200 mg | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)Cl | C13H17BrClNO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-Chloro-6-methyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethylbutanamide | ClC1=C(C(=CC(=C1)N1CC2=CC=C(C=C2CC1)C(F)(F)F)C)NC(CC(C)(C)C)=O | C23H26ClF3N2O
